US07834000B2
1-(1-(2-(4-Oxo-2-phenyl-3-((pyridin-4-yl)methyl)thiazolidin-5-yl)acetyl)piperidin-4-yl)-1H-benzo[d]imidazol-2(3H)-one (Compound # 45)
To a solution of 2-(4-oxo-2-phenyl-3-((pyridin-4-yl)methyl)thiazolidin-5-yl)acetic acid (0.15 mmol, 49 mg), 1-(piperidin-4-yl)-1H-benzo[d]imidazol-2(3H)-one (0.15 mmol, 33 mg) and DIPEA (0.375 mmol, 65.3 μl) in 4:1 CH3CN:DMF (0.5 ml) was added HATU (0.18 mmol, 68 mg) and the reaction mixture was stirred at room temperature for 16 h. Purification by preparative reverse phase HPLC using 10%/99% CH3CN (0.035% TFA)/H2O (0.05% TFA) gave the title compound. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=528.1; tR=2.28. H NMR (400 MHz, CDCl3) δ 9.00 (s, 1H), 8.60 (d, J=6.3 Hz, 2H), 7.40-7.38 (m, 2H), 7.33-7.29 (m, 5H), 7.06-6.92 (m, 4H), 5.55-5.53 (m, 1H), 4.55 (d, J=4.4 Hz, 2H), 4.45-4.42 (m, 3H), 4.07 (d, m, 2H), 3.42-3.41 (m, 1H), 3.20-3.15 (m, 1H), 3.01-2.90 (m, 1H), 2.66 (m, 2H), 1.88 (m, 2H) ppm.

reactant | 2-(4-oxo-2-phenyl-3-((pyridin-4-yl)methyl)thiazolidin-5-yl)acetic acid | 0.15 mmol, 49 mg | O=C1N(C(SC1CC(=O)O)C1=CC=CC=C1)CC1=CC=NC=C1 | C17H16N2O3S
reactant | 1-(piperidin-4-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.15 mmol, 33 mg | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | DIPEA | 0.375 mmol, 65.3 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.18 mmol, 68 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | CH3CN | CC#N | C2H3N
product | 1-(1-(2-(4-Oxo-2-phenyl-3-((pyridin-4-yl)methyl)thiazolidin-5-yl)acetyl)piperidin-4-yl)-1H-benzo[d]imidazol-2(3H)-one | O=C1N(C(SC1CC(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C2=CC=CC=C2)CC2=CC=NC=C2 | C29H29N5O3S
